**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Data Line Filter 
* Matchcode:              WE-CMDC
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-05
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1211_744237701_9u 1  2  3  4
X1  1  2  3  4  CMDC  PARAMS:
+ dL3=27.0572n
+ dL4=512.2689p
+ dC3=32.8484f
+ dC4=5.5772p
+ dR3=3.8040
+ dR4=928.0001
+ dR5=814.4008m
+ dR6=231.8557
+ Rdc=6m
+ ck=185.0586f
+ L1=1.9523u
+ L2=85.6847p
+ L3=53.5942u
+ L4=3.4812u
+ L5=519.2381u
+ C1=590.5133p
+ C2=23.1323n
+ Rs1=2.4202k
+ Rs2=1.8113k
+ Rs3=67.8605
+ Rs4=457.3087k
+ Rs5=5.5341k
+ R2=1.4545k
.ends 
*****
.subckt 1211_744237102_13u 1  2  3  4
X1  1  2  3  4  CMDC  PARAMS:
+ dL3=47.5976n
+ dL4=29.5680n
+ dC3=4.4583f
+ dC4=7.9192p
+ dR3=9.7189
+ dR4=2.0433k
+ dR5=1.7339
+ dR6=45.9839
+ Rdc=14m
+ ck=266.5405f
+ L1=219.5039n
+ L2=85.6340p
+ L3=52.2008u
+ L4=11.3310u
+ L5=518.5773u
+ C1=592.3029p
+ C2=23.9921n
+ Rs1=2.4239k
+ Rs2=1.8111k
+ Rs3=67.8778
+ Rs4=457.2551k
+ Rs5=5.5340k
+ R2=2.1820k
.ends 
****
.subckt 1211_744237152_17u 1  2  3  4
X1  1  2  3  4  CMDC  PARAMS:
+ dL3=8.5428n
+ dL4=42.6992n
+ dC3=987.3208f
+ dC4=29.8106p
+ dR3=10.0000m
+ dR4=1.8700k
+ dR5=1.2024k
+ dR6=130.0705k
+ Rdc=21m
+ ck=170.4207f
+ L1=218.1131n
+ L2=85.6324p
+ L3=52.1619u
+ L4=12.8573u
+ L5=518.5484u
+ C1=593.0482p
+ C2=23.9369n
+ Rs1=2.4240k
+ Rs2=1.8111k
+ Rs3=67.8782
+ Rs4=457.3996k
+ Rs5=5.5340k
+ R2=2.7687k
.ends 
****
.SUBCKT  CMDC    1  2  3  4  PARAMS: 
L5 N009 N008 {L3}
C3 N002 N001 {C1}
L1 2 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 4 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N001 {L4}
L9 N001 N007 {L5}
L10 N013 N021 {L5}
R1 N003 1 {Rdc}
R2 N005 N003 {dR4}
C1 N004 N003 {dC3}
L17 N011 N003 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N005 N004 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N005 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 3 {Rdc}
R8 N007 N005 {dR6}
C10 N006 N005 {dC4}
L13 N012 N005 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N007 N006 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N007 N012 {dL4}
L16 N020 N021 {dL4}
R7 N001 N007 {Rs5}
C5 N001 N007 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N001 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 2 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 4 N016 {Rs1}
R21 2 N002 {R2}
R22 4 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.ends  CMDC
****